* Z:\home\art\school\ECE2001-Electrical-Circuits\Designprojects\design1\Draft1.asc
* Generated by LTspice 24.1.4 for Windows.
X§U1 N008 N001 +v -v N012 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U4 0 N007 +v -v N008 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U5 0 N004 +v -v N006 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U6 0 N011 +v -v N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
M1 P001 N012 N001 N001 NMOS
M2 P002 N012 N001 N001 PMOS
V13 P002 0 5
V14 P001 0 5
R1 N001 0 8
R4 N008 N007 10000
R5 N006 N004 10000
R6 N014 N011 10000
R8 N002 P003 7500
C1 P003 N005 10µF
C2 N013 0 10µF
R11 N007 N010 1000
R12 N007 N006 10000
X§U3 0 N002 +v -v N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N003 N002 20000
R9 N004 N003 10000
X§U2 0 N009 +v -v N010 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 N010 N009 100000
R10 N011 N013 1000
R13 N009 N014 7500
V1 0 +v 5
V2 0 -v 5
V3 N005 0 SINE(0 0.0015 1000) AC 1.03
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\art\AppData\Local\LTspice\lib\cmp\standard.mos
* Input Voltage 0.75Vp -> Output 2Vp\nGain Needed: 2.67
* Input Voltage 0.0015Vp -> Output 2Vp\nGain Needed: 1333.333
* PreAmp Music G = 20000 / 7500 = 2.6667
* Pre-Amp Mic Gain 1: 10000/1000 = 10
* Pre-Amp Mic Gain 2: 100000/7500 = 13.333
* Summing Amp Mic Gain: 10000/1000 = 10
* .tran 0.010
.ac dec 1000 100 1Meg
.lib UniversalOpAmp1.lib
.backanno
.end
